delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.344452
Rb B C 30.06722
Rc C A 30.388179
Cload B 0 4.06e-06
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i]
.endc
.end
